US07576215B2
4-Hydroxy-8-(trifluoromethyl)-3-quinolinecarboxylic acid ethyl ester (49.71 g, 174.3 mmol) was taken into CH2Cl2 (500 mL) then trifluoromethanesulfonic anhydride (54.1 g, 191.73 mmol) was added. Next, the mixture was cooled to 0° C. where triethylamine was added dropwise via an addition funnel. After triethylamine was added the reaction was allowed to stir for 30 minutes. The reaction was quenched with water and extracted with methylene chloride. The combined organics were washed with 5% HCl and brine. Then dried over magnesium sulfate and filtered through a short silica gel plug using methylene chloride as the eluent. Concentration afforded ethyl 8-(trifluoromethyl)-4-{[(trifluoromethyl)sulfonyl]oxy}quinoline-3-carboxylate as a tan solid (70.98 g, 97.6%). MS (ESI) m/z 418 ([M+H]+); Anal. Calcd for C14H9F6NO5S: C, 40.30; H, 2.17; N, 3.36. Found: C, 40.42; H, 1.97; N, 3.29.

reactant | 4-Hydroxy-8-(trifluoromethyl)-3-quinolinecarboxylic acid ethyl ester | 174.3 mmol, 49.71 g | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1O)C(F)(F)F | C13H10F3NO3
reactant | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
reactant | trifluoromethanesulfonic anhydride | 191.73 mmol, 54.1 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | ethyl 8-(trifluoromethyl)-4-{[(trifluoromethyl)sulfonyl]oxy}quinoline-3-carboxylate | 70.98 g, 97.6% | FC(C=1C=CC=C2C(=C(C=NC12)C(=O)OCC)OS(=O)(=O)C(F)(F)F)(F)F | C14H9F6NO5S
